US05151545
(10H,11H-Dibenzo[a,c]cyclohepten-5-ylidene)acetaldehyde
Dibenzosuberone (5.3 g, 0.026 mol) was reacted with 1-ethoxy-2-lithio ethylene in anhydrous THF in the manner of Preparation 1 to yield present title product as a yellow oily solid, 2.86 g (48%).

reactant | Dibenzosuberone | 0.026 mol, 5.3 g | C1CC2=CC=CC=C2C(=O)C3=CC=CC=C31 | C15H12O
reactant | 1-ethoxy-2-lithio ethylene | C(C)OC=C[Li]
solvent | THF | C1CCOC1 | C4H8O
product | (10H,11H-Dibenzo[a,c]cyclohepten-5-ylidene)acetaldehyde | C1=CC=CC2=C1C1=C(C=CC2=CC=O)C=CCC1 | C17H14O
